US06002008
4-(3-acetylphenylamino)-6.7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 105 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with 3-aminoacetophenone gave the tide compound as an off-white solid, mp 191-194° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 3-aminoacetophenone | CC(=O)C1=CC(=CC=C1)N | C8H9NO
product | 4-(3-acetylphenylamino)-6.7-diethoxy-3-quinolinecarbonitrile | C(C)(=O)C=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C22H21N3O3
